US05945567
Preparation of 6-chloro-2'-pentyloxy-6'-methyl-2,3',4'-trimethoxy-benzophenone
A mixture of sodium methylate in methanol (5.4 mol/l, 19.6 mmol), 2,6-dichloro-3',4'-dimethoxy-6'-methyl-2'-pentyloxy-benzophenone (obtained according to EP 0 727 141, 2.69 g, 6.5 mmol) and dimethoxyethane (20 ml) is heated to 80° C. with stirring for 24 hours. A mixture of water and ethyl acetate (1:1 v/v; 100 ml) is then slowly added at room temperature. The organic phase is separated and concentrated and the residue is purified by column chromatography (dichloromethane) yielding the pure product as a yellow oil, 0.52 g, (19.7%).

reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 19.6 mmol, 5.4 mol/l | CO | CH4O
reactant | 2,6-dichloro-3',4'-dimethoxy-6'-methyl-2'-pentyloxy-benzophenone | 6.5 mmol, 2.69 g | ClC1=C(C(=O)C2=C(C(=C(C=C2C)OC)OC)OCCCCC)C(=CC=C1)Cl | C21H24Cl2O4
reactant | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-chloro-2'-pentyloxy-6'-methyl-2,3',4'-trimethoxy-benzophenone | ClC1=CC=CC(=C1C(=O)C1=C(C(=C(C=C1C)OC)OC)OCCCCC)OC | C22H27ClO5
